US07635715B2
Step A: Preparation of 4-(4-Chlorophenyl)tetrahydro-2H-pyran-4-carboxylic acid
To a solution of (4-chlorophenyl)acetonitrile (1.15 g, 7.59 mmol) in DMF (11.5 mL) at 10° C., was added sodium tert-butoxide (0.80 g, 8.34 mmol). The resulting mixture was aged for 10 minutes and then treated with bis(2-chloroethyl)ether (1.19 g, 8.34 mmol). The mixture was aged at 10° C. for 1 hour, warmed to ambient temperature and treated with a second portion of sodium tert-butoxide (0.80 g, 8.34 mmol). After 10 minutes, the mixture was quenched with a 1.0M H3PO4 solution and extracted with EtOAc (2×25 mL). The combined extracts were washed with saturated brine, dried (MgSO4), and concentrated in vacuo to give a brown solid. The product was dissolved in 1,4-dioxane (5 mL) and treated with a 9.0M H2SO4 solution at 100° C. for 48 hours. The cooled mixture was then brought to pH=10 and extracted with diethyl ether (2×25 mL). The aqueous phase was acidified to pH=2 with 5N HCl, and the resulting precipitate was collected by vacuum filtration. The solid was dried under vacuum at 50° C. overnight. MS m/e=241.2 (M+H)+.

reactant | (4-chlorophenyl)acetonitrile | 7.59 mmol, 1.15 g | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | sodium tert-butoxide | 8.34 mmol, 0.80 g | CC(C)([O-])C.[Na+]
reactant | bis(2-chloroethyl)ether | 8.34 mmol, 1.19 g | ClCCOCCCl | C4H8Cl2O
reactant | sodium tert-butoxide | 8.34 mmol, 0.80 g | CC(C)([O-])C.[Na+]
reactant | H2SO4 | 9.0M | OS(=O)(=O)O | H2O4S
reactant | DMF | 11.5 mL | CN(C)C=O | C3H7NO
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 4-(4-Chlorophenyl)tetrahydro-2H-pyran-4-carboxylic acid | ClC1=CC=C(C=C1)C1(CCOCC1)C(=O)O | C12H13ClO3
